US06320051B1
c) 2-(3-amino-2-methoxyprop-1-ylamino)quinolin-4-one dihydrochloride
A solution of 2-(3-amino-2-methoxyprop-1-ylamino)-4-methoxyquinoline (0.84 g, 0.00321 mol) in hydrochloric acid (10M, 30 ml) was stirred at reflux for 24 h. After cooling the mixture was concentrated to give the title compound as a light brown solid (0.88 g, 85%). δH (CD3OD) 3.00-3.90 (5H, m, 2CH2, CHOCH3), 3.36 (3H, s, CHOCH3), 6.48 (1H, s, 3-H), 7.47-8.15 (4H, m, ArH). MS (ES+) 248 (M+H).

reactant | 2-(3-amino-2-methoxyprop-1-ylamino)-4-methoxyquinoline | 0.00321 mol, 0.84 g | NCC(CNC1=NC2=CC=CC=C2C(=C1)OC)OC | C14H19N3O2
reactant | hydrochloric acid | 10M, 30 ml | Cl | ClH
product | 2-(3-amino-2-methoxyprop-1-ylamino)quinolin-4-one dihydrochloride | 0.88 g, 85% | Cl.Cl.NCC(CNC1=NC2=CC=CC=C2C(C1)=O)OC | InChI=1S/C13H17N3O2.2ClH/c1-18-9(7-14)8-15-13-6-12(17)10-4-2-3-5-11(10)16-13;;/h2-5,9H,6-8,14H2,1H3,(H,15,16);2*1H
